US05891899
A suspension of 5-(9H-xanthen-9-ylmethyl)-5-(3-methoxy-4-methoxycarbonylphenyl)hydantoin (1.04 g, 2.27 mmol) in aqueous sodium hydroxide (2M, 6.8 ml) was heated at 120° C. in a teflon lined stainless steel sealed tube for 3 days with stirring. After cooling, aqueous hydrochloric acid (5M, 3 ml) was added followed by purification on ion exchange (Dowex50×8-100 resin). The column was eluted sequentially with water, water-tetrahydrofuran (1:1), water and 10% pyridine in water. Fractions collected after the pyridine-water elution were combined, evaporated to dryness, redissolved in water and freeze-dried to give 2-amino-2-(4-carboxy-3-methoxyphenyl)-3-(9H-xanthen-9-yl)propanoic acid as a white powder.

reactant | 5-(9H-xanthen-9-ylmethyl)-5-(3-methoxy-4-methoxycarbonylphenyl)hydantoin | 2.27 mmol, 1.04 g | C1=CC=CC=2OC3=CC=CC=C3C(C12)CC1(C(NC(N1)=O)=O)C1=CC(=C(C=C1)C(=O)OC)OC | C26H22N2O6
reactant | hydrochloric acid | 5M, 3 ml | Cl | ClH
reactant | sodium hydroxide | 2M, 6.8 ml | [OH-].[Na+]
product | 2-amino-2-(4-carboxy-3-methoxyphenyl)-3-(9H-xanthen-9-yl)propanoic acid | NC(C(=O)O)(CC1C2=CC=CC=C2OC=2C=CC=CC12)C1=CC(=C(C=C1)C(=O)O)OC | C24H21NO6
